US04937251
2-[3-[(2-Propynyl)oxy]propyl]pyridine
From 2-pyridinepropanol (13.7 g) and propargyl bromide (80% solution in toluene, 12 ml), with a reaction time of 2 h. FCC eluting with hexane-ether (1:1) gave the title compound as an orange oil (9.0 g), t.l.c. (System B 80:20:1) Rf 0.15.

reactant | 2-pyridinepropanol | 13.7 g | N1=C(C=CC=C1)CCCO | C8H11NO
reactant | propargyl bromide | 12 ml | C(C#C)Br | C3H3Br
product | 2-[3-[(2-Propynyl)oxy]propyl]pyridine | 9.0 g | C(C#C)OCCCC1=NC=CC=C1 | C11H13NO
